US06121271
Acetic acid 4-(2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenyl ester
To a solution of 4-(2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenol (24.0 g, 72.2 mmol) in pyridine (200 mL) at 0° C. under nitrogen was added dropwise acetic anhydride (8.9 mL, 93.9 mmol) over a period of 10 min. After 45 min at 0° C., the reaction mixture was placed in the freezer for 18 h, then removed and stirred for 2 h in an ice bath that was allowed to warm to room temperature. The reaction mixture was poured onto water (1 L) and acidified with 10% hydrochloric acid to a pH of 1. The resulting mixture was extracted with diethyl ether (1 L), which was washed with 10% hydrochloric acid (1 L), twice with water (1 L), brine (700 mL), and dried (MgSO4). Concentration under reduced pressure and chromatography with petroleum ether:ethyl acetate (97:3) gave the title compound as a cream solid (22.4 g, 79%): NMR (CDCl3) δ 8.26 (s, 1 H), 7.87 (d, 1 H), 7.58 (d, 1 H), 7.44-7.40 (m, 1 H), 7.33-7.29 (m, 1 H), 7.07 (s, 2 H), 2.42 (s, 3 H), 2.41 (s, 3 H), 2.23 (s, 6 H), 1.67 (s, 3 H). MS(EI), [M+] 374. Anal. Calc. for C24H22O2S: C, 76.97, H, 5.92, N, 0.00. Found: C, 76.17, H, 5.75, N, 0.22.

reactant | 4-(2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenol | 72.2 mmol, 24.0 g | CC1=C(C2=C(S1)C=C1C=CC=CC1=C2C2=CC(=C(C(=C2)C)O)C)C | C22H20OS
reactant | acetic anhydride | 93.9 mmol, 8.9 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 200 mL | N1=CC=CC=C1 | C5H5N
product | Acetic acid 4-(2,3-dimethyl-naphtho[2,3-b]thiophen-4-yl)-2,6-dimethyl-phenyl ester | 22.4 g, 79% | CC1=C(C2=C(S1)C=C1C=CC=CC1=C2C2=CC(=C(C(=C2)C)OC(C)=O)C)C | C24H22O2S
